US04518597
6-[4-(4-Methyl-phenylmercapto)-butoxy]-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 6-(4-methanesulfonyloxy-butoxy)-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-methyl-thiophenol.

reactant | 6-(4-methanesulfonyloxy-butoxy)-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)[N+](=O)[O-] | C15H20N2O8S
reactant | 4-methyl-thiophenol | CC1=CC=C(C=C1)S | C7H8S
product | 6-[4-(4-Methyl-phenylmercapto)-butoxy]-7-nitro-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CC1=CC=C(C=C1)SCCCCOC=1C(=CC2=C(C(OC(N2)=O)(C)C)C1)[N+](=O)[O-] | C21H24N2O5S
